US04992542
Step 1. Preparation of N-(p-nitrobenzyloxycarbonyl)-1-amino-2-butanethiol (D3)
N,N-Diisopropylethylamine (8.50 ml, 0.0488 mol) and Me3SiCl (3.50 ml, 0.0239 mol) were added to an ice-cold, stirring solution of 1-amino-2-butanethiol (3.00 g, 0.0212 mol) in MeCN (16.0 ml). The solution was stirred 10 minutes at 0°, then treated with more N,N-diisopropylethylamine (3.70 ml, 0.0212 mol) and with a solution of p-nitrobenzyl chloroformate (4.57 g, 0.0212 mol) in MeCN (5.0 ml). The resulting mixture was stirred for 30 minutes at 0° and 90 minutes at room temperature. The mixture was poured into ice-water (50 ml) and extracted with EtOAc (75 ml). The organic phase was separated, washed with 1.25N HCl, 5% NaHCO3, and brine, dried with MgSO4, filtered and evaporated under vacuum to an oil (5.79 g).

reactant | N,N-Diisopropylethylamine | 0.0488 mol, 8.50 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Me3SiCl | 0.0239 mol, 3.50 ml | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | 1-amino-2-butanethiol | 0.0212 mol, 3.00 g | NCC(CC)S | C4H11NS
reactant | N,N-diisopropylethylamine | 0.0212 mol, 3.70 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | p-nitrobenzyl chloroformate | 0.0212 mol, 4.57 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | MeCN | 16.0 ml | CC#N | C2H3N
solvent | MeCN | 5.0 ml | CC#N | C2H3N
product | N-(p-nitrobenzyloxycarbonyl)-1-amino-2-butanethiol | [N+](=O)([O-])C1=CC=C(COC(=O)NCC(CC)S)C=C1 | C12H16N2O4S
